US07977323B2
Step 2: (4-Ethyl-imidazol-1-yl)-acetic acid
1.7 g (9.5 mmol) of (4-ethyl-imidazol-1-yl)-acetic acid ethyl ester are dissolved in 47 ml (190 mmol) 4N HCl and the mixture is heated to reflux. After 2 h the mixture is cooled to rt and the solvent is removed in vacuo. The resulting product is used without further purification.

reactant | (4-ethyl-imidazol-1-yl)-acetic acid ethyl ester | 9.5 mmol, 1.7 g | C(C)OC(CN1C=NC(=C1)CC)=O | C9H14N2O2
reactant | HCl | 190 mmol, 4N, 47 ml | Cl | ClH
product | (4-Ethyl-imidazol-1-yl)-acetic acid | C(C)C=1N=CN(C1)CC(=O)O | C7H10N2O2
